US05753664
3,5-Dimethyl-2-[4-(4-hydroxybenzoyl)benzylthio]-4(3H)-quinazolinone
A solution of 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone (952 mg), 4-(4-t-butyldimethylsilyloxybenzoyl)benzyl bromide (2.90 g) and 1N-aqueous sodium hydroxide solution (4.6 ml) in methanol (20 ml) was stirred at room temperature for 4 hours. This reaction mixture was concentrated and extracted with chloroform and the extract was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=19:1). The resulting 2-[4-(4-t-butyldimethylsilyloxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone was dissolved in tetrahydrofuran (15 ml). To this solution was added 1M tetrabutylammonium fluoride/tetrahydrofuran (3.8 ml), and the mixture was stirred at room temperature for 1 hour. This reaction mixture was diluted with water and the resulting precipitate was collected by filtration, rinsed with water, and dried to provide the title compound as colorless solid (1.332 g).

reactant | 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone | 952 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)S | C10H10N2OS
reactant | 4-(4-t-butyldimethylsilyloxybenzoyl)benzyl bromide | 2.90 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C20H25BrO2Si
reactant | sodium hydroxide | 4.6 ml | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3,5-Dimethyl-2-[4-(4-hydroxybenzoyl)benzylthio]-4(3H)-quinazolinone | 1.332 g | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)=O | C24H20N2O3S
